US04544401
2-Chloro-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide
To a stirred suspension of 1.4 g of 2-amino-4-methoxy-6-methylpyrimidine in 20 ml of dry acetonitrile at room temperature was added 2.2 g of 2-chloropyridine-3-sulfonylisocyanate. The mixture was stirred for several hours and filtered. Evaporation of the filtrate yielded a solid residue which was stirred in approximately 30 ml of water while adjusting the pH of this mixture to 11 by the addition of 10% of NaOH. This solution was filtered, the filtrate pH adjusted to pH 7 by adding 10% hydrochloric acid and the resulting neutral solution was again filtered. The desired product was then precipitated from this filtrate by adjusting the pH to 2, collected in a sintered funnel and dried in a vacuum oven at room temperature. It melted at 165°-168°.

reactant | 2-amino-4-methoxy-6-methylpyrimidine | 1.4 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
reactant | 2-chloropyridine-3-sulfonylisocyanate | 2.2 g | ClC1=NC=CC=C1S(=O)(=O)N=C=O | C6H3ClN2O3S
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | approximately 30 ml | O | H2O
product | 2-Chloro-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide | ClC1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)C | C12H12ClN5O4S
